US04112096
C. 10-Chloro-2-(hydroxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one
2.0 g (0.0103 mole) of 4-chloro-3-diazooxindole, and 11.95 g (0.207 mole or 20 equivalents) of 97% propargyl alcohol are refluxed under N2 for hours. The reaction mixture is cooled, diluted with ether (200 ml) and stirred for 20 minutes. The cream-colored precipitates are filtered off, washed with ether and dried in vacuo over the weekend at 50°. Yield: 2.44 g, mp 295°-296°; 94.9% crude yield. The crude product is taken up in absolute ethanol, filtered while hot and the filtrate is concentrated to a volume of 150 ml. The solution is cooled and the precipitates filtered off, washed with ether and dried in vacuo at room temperature for 24 hours to give 1.4 g of title compound, mp 309°-311°.

reactant | 4-chloro-3-diazooxindole | 0.0103 mole, 2.0 g | ClC1=C2C(C(NC2=CC=C1)=O)=[N+]=[N-] | C8H4ClN3O
reactant | propargyl alcohol | 0.207 mole, 11.95 g, 20 equivalents | C(C#C)O | C3H4O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 10-Chloro-2-(hydroxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | 1.4 g | ClC=1C=2C=3N(C(NC2C=CC1)=O)N=C(C3)CO | C11H8ClN3O2
